### PR TITLE
Left and right lifts along a displayed cat.

### PR DESCRIPTION
**Pull request by patrick-nicodemus**
# Description

Let $F: C\times D\to B$ be a functor and $p : E\to B$ a displayed category. Let $F' : C\times D\to E$ be a lift of  $F$ along $F'$. We show that $F'(c-,)$ is a lift of $F(c,-)$ for any $c$, similarly $F'(-,d)$ is a lift of $F(-,d)$ for any $d$.

The intended application of this theorem is to the theory of displayed bicategories.

### CODE REVIEW

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/343)

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 1]
```diff
@@ -142,6 +146,73 @@ higher level of strictness than usual.
...
+  open Cat.Displayed.Reasoning E
+
+  πᶠ-lifting : Lifting E (πᶠ E)
+  πᶠ-lifting .Lifting.F₀' (_ , a)= a
+  πᶠ-lifting .Lifting.F₁' f = preserves f
+  πᶠ-lifting .Lifting.F-id' = refl
+  πᶠ-lifting .Lifting.F-∘' f g = refl
+```
+
+```agda
```
Comment (TOTBWF) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:166]: This section needs some prose. It doesn't need to be much: rewording the PR description would be fine :)

**Review by TOTBWF — CHANGES_REQUESTED** [review]

File: src/Cat/Displayed/Base.lagda.md [hunk 2]
```diff
@@ -120,6 +120,13 @@ For convenience, we also introduce displayed analogues for equational chain reas
                → g' ≡[ q ] h' → f' ≡[ p ] g' → f' ≡[ p ∙ q ] h'
   ≡[-]⟨⟩-syntax f' p q' p' = p' ∙[] q'
 
+  ≡[]˘_ : ∀ {x} {y} {f} {g}
```
[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply src/Cat/Displayed/Base.lagda.md:123]: I am new to Agda and I am used to Coq where you can use tactics to change the shape of the goal. As you said, if I just use `symP _ _` it is unable to infer the types of the subterms while I am incrementally writing the proof, which to me makes me feel uncomfortable because I do not like the yellow squiggly lines for ambiguous type inference. 
However, now that the proof is written, I can delete it and use symP instead, so I guess I will do that. Let me know if there are any good techniques you know for getting Agda to show a different shape for the goal, or a more specific one.

**Review by TOTBWF — APPROVED** [review]

File: src/Cat/Displayed/Base.lagda.md (hunk 2 above)
[the remark this answers is not in the document]
Comment (TOTBWF) [reply src/Cat/Displayed/Base.lagda.md]: Generally when there are unsolved metas (the dreaded yellow), the correct move is to either fill in implicits using the `{name = ...}` syntax, or to add type annotations somewhere to help out Agda.

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 3]
```diff
@@ -142,6 +144,70 @@ higher level of strictness than usual.
     ni .natural _ _ _ = id-comm
 ```
 
+The distinguished projection `πᶠ` has a canonical choice of lifting.
+Later, we will prove that for any functor $F$ valued in
+$\cE$, $\pi^f$ has a canonical choice of lifting; however, this later
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:149]:
```suggestion
$\cE$, $\pi^f \circ F$ has a canonical choice of lifting; however, this later
```

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 4]
```diff
@@ -142,6 +144,70 @@ higher level of strictness than usual.
...
+is not definitionally equal to $\pi^f$.
+
+```agda
+module _ {o ℓ o' ℓ'}
+  {B : Precategory o ℓ}
+  (E : Displayed B o' ℓ')
+  where
+  open Cat.Reasoning B
+  open Displayed E
+  open Cat.Displayed.Reasoning E
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:160]: This should be hidden

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 5]
```diff
@@ -142,6 +144,70 @@ higher level of strictness than usual.
...
+
+  πᶠ-lifting : Lifting E (πᶠ E)
+  πᶠ-lifting .Lifting.F₀' (_ , a) = a
+  πᶠ-lifting .Lifting.F₁' f = preserves f
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:164]:
```suggestion
  πᶠ-lifting .Lifting.F₁' f = f .preserves
```

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 6]
```diff
@@ -142,6 +144,70 @@ higher level of strictness than usual.
...
+  πᶠ-lifting .Lifting.F-id' = refl
+  πᶠ-lifting .Lifting.F-∘' f g = refl
+```
+
+Let $F: \cC\times \cD\to \cB$ be a functor and $\cE\liesover\cB$ a displayed category. Let $F' : \cC\times \cD\to \cE$ be a lift of  $F$ along $F'$. We show that $F'(c-,)$ is a lift of $F(c,-)$ for any $c$, similarly $F'(-,d)$ is a lift of $F(-,d)$ for any $d$.
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:169]:
```suggestion
Let $F: \cC\times \cD\to \cB$ be a functor and $\cE\liesover\cB$ a displayed category. Let $F' : \cC\times \cD\to \cE$ be a lift of $F$. We show that $F'(c-,)$ is a lift of $F(c,-)$ for any $c$, similarly $F'(-,d)$ is a lift of $F(-,d)$ for any $d$.
```

Also this should be reflowed to fit in the 72-character width limit.

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 7]
```diff
@@ -142,6 +144,70 @@ higher level of strictness than usual.
...
+  (C : Precategory o₃ ℓ₃)
+  (D : Precategory o₄ ℓ₄)
+  (F : Functor (C ×ᶜ D) B)
+  (F' : Lifting E F)
+  where
+  private
+    module C = Precategory C
+    module D = Precategory D
+    module E = Displayed E
+    module F' = Lifting F'
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:184]: This should be hidden.

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 8]
```diff
@@ -142,6 +144,70 @@ higher level of strictness than usual.
...
+
+  Left' : ∀ (d : D.Ob) → Lifting E (Bi.Left F d)
+  Left' d .Lifting.F₀' c = Lifting.F₀' F' (c , d)
+  Left' d .Lifting.F₁' f = Lifting.F₁' F' ( f , D.id )
+  Left' d .Lifting.F-id' = Lifting.F-id' F'
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:189]:
```suggestion
  Left' d .Lifting.F₀' c = F' .Lifting.F₀' (c , d)
  Left' d .Lifting.F₁' f = F' .Lifting.F₁' (f , D.id)
  Left' d .Lifting.F-id' = F' .Lifting.F-id'
```

I guess this isn't in the style guide but please use postfix projections everywhere.

File: src/Cat/Displayed/Instances/Lifting.lagda.md [hunk 9]
```diff
@@ -142,6 +144,70 @@ higher level of strictness than usual.
...
+
+  Left' d .Lifting.F-∘' f g = symP
+                   ((F'.F₁' (f , D.id) E.∘'
+                     F'.F₁' (g , D.id))
+                     E.≡[]˘⟨ F'.F-∘' (f , D.id) (g , D.id) ⟩
+                      (ap (F' .Lifting.F₁')
+                        (λ i → C._∘_ f g , D.idl (D.id) i)
+                           E.∙[] refl))
```
Comment (ncfavier) [inline src/Cat/Displayed/Instances/Lifting.lagda.md:197]: The alignment is a bit awkward here, could you make this a proper reasoning chain ending with `∎`?

Also it looks like the proofs of `first∘first` and `second∘second` could be simplified by omitting the outer `sym` and reversing the chain, which would also simplify these displayed proofs (but you don't have to do this).

**Review by ncfavier — CHANGES_REQUESTED** [review]
